US06740777B2
To a solution of 2,2-dimethyl-5-trifluoromethane-sulfonyloxy-4H-1,3-benzodioxin-4-one (2.0 g, 5.8 mmol), 3-ethoxycarbonylphenylboronic acid (1.34 g, 6.9 mmol) and anhydrous K2CO3 powder (2.61 g, 18.9 mmol) in DMF (30 mL) was added tetrakis(triphenylphosphine)palladium (0.202 g, 0.175 mmol). The mixture was heated at reflux for 2 h. The reaction mixture was allowed to cool to room temperature (“rt”) and 1 N HCl (25 mL) was added. The mixture was extracted with EtOAc (3×25 mL). The combined extracts were washed with water and brine, then dried over MgSO4, filtered, and concentrated. The crude material was purified by flash chromatography (1:15 EtOAc/hexanes) to afford 3-(2,2-dimethyl4-oxo4H-1,3-benzodioxin-5-yl)-benzoic acid, ethyl ester (1.2 g, 63%) as a white solid: 1H NMR (CDCl3) δ1.39 (t, J=7.1 Hz, 3H), 1.80 (s, 6H), 4.39 (q, J=7.0 Hz, 2H), 7.01 (d, J=8.0 Hz, 2H), 7.47-7.57 (m, 3H), 8.00 (t, J=1.5 Hz, 1H) 8.07 (dt, J=7.5, 1.5 Hz, 1H).

reactant | 2,2-dimethyl-5-trifluoromethane-sulfonyloxy-4H-1,3-benzodioxin-4-one | 5.8 mmol, 2.0 g | CC1(OC(C2=C(O1)C=CC=C2OS(=O)(=O)C(F)(F)F)=O)C | C11H9F3O6S
reactant | 3-ethoxycarbonylphenylboronic acid | 6.9 mmol, 1.34 g | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | K2CO3 | 18.9 mmol, 2.61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1 N, 25 mL | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.175 mmol, 0.202 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2,2-dimethyl4-oxo4H-1,3-benzodioxin-5-yl)-benzoic acid, ethyl ester | 1.2 g, 63% | CC1(OC(C2=C(O1)C=CC=C2C=2C=C(C(=O)OCC)C=CC2)=O)C | C19H18O5
